US05521167
3β-(2-Hydroxyethoxy)-androstan-17-one
To a solution of 4.0 g of 3β-formylmethoxy-androstan-17-one in 50 ml of methanol 0.60 g of sodium borohydride were added slowly at -78° C. After 1/2 hr 20 ml of water were added, the methanol was distilled under reduced pressure, and the mixture was extracted with methylene chloride; the organic layer was washed with water, dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using n-hexane/ethyl acetate 80/20 as eluant to give 3.5 g of the title compound as a white solid.

reactant | 3β-formylmethoxy-androstan-17-one | 4.0 g | C(=O)CO[C@@H]1CC2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H32O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 50 ml, 0.60 g | CO | CH4O
product | 3β-(2-Hydroxyethoxy)-androstan-17-one | 3.5 g | OCCO[C@@H]1CC2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C21H34O3
